US05391571
Butylcarbamic acid 4-phenoxyphenyl ester
Triethylamine (15 ml, 0.11 mol) was added dropwise under a nitrogen atmosphere to a solution of 4-phenoxyphenol (25.1 g, 0.14 mol) and butyl isocyanate (18 ml, 0.16 mol) in 400 ml of methylene chloride. After the addition, the solution was stirred overnight at room temperature. The solution was extracted with 1 N HCl, dried (MgSO4) and the solvent removed under reduced pressure to give 39.59 g of a tan solid. Recrystallization from diisopropyl ether gave the title compound as a white crystalline solid (21.01 g, 55%), mp 75°-77° C.

reactant | Triethylamine | 0.11 mol, 15 ml | C(C)N(CC)CC | C6H15N
reactant | 4-phenoxyphenol | 0.14 mol, 25.1 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)O | C12H10O2
reactant | butyl isocyanate | 0.16 mol, 18 ml | C(CCC)N=C=O | C5H9NO
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | Butylcarbamic acid 4-phenoxyphenyl ester | 39.59 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)OC(NCCCC)=O | C17H19NO3
